US08859541B2
E2d) tert-butyl-N-[1-[[5-benzyl-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate
A mixture of tert-butyl-N-[1-[[5-bromo-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate C2a (50 mg, 0.11 mmol), 9-benzyl-9-borabicyclo[3.3.1]-nonane (283 μl, 0.14 mmol) Cs2CO3 (71 mg, 0.22 mmol), 1,1′-Bis(diphenylphosphino)-ferrocene]dichloropalladium(II) (8.0 mg, 0.01 mmol) and dioxane (0.6 ml) is stirred under argon atmosphere for 45 minutes at 70° C. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 26 mg (51%). HPLC-MS: M+H=470; tR=1.97 min (*Method—4).

reactant | tert-butyl-N-[1-[[5-bromo-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)Br)C#CC1=CC=CC=C1)C)=O | C22H24BrN3O3
reactant | 9-benzyl-9-borabicyclo[3.3.1]-nonane | 0.14 mmol, 283 μl, 71 mg | C(C1=CC=CC=C1)B1C2CCCC1CCC2 | C15H21B
catalyst | 1,1′-Bis(diphenylphosphino)-ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.01 mmol, 8.0 mg | Cl[Pd]Cl
solvent | dioxane | 0.6 ml | O1CCOCC1 | C4H8O2
product | tert-butyl-N-[1-[[5-benzyl-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)CC1=CC=CC=C1)C#CC1=CC=CC=C1)C)=O | C29H31N3O3
